US06531502B1
A mixture of 4-methyl-2-oxindole (147 mg), 3-methyl-indole-2-carbaldehyde (190 mg) (prepared according to Synthetic Communications, 1986, 16, 1799) and piperidine (10 mg) in ethanol was held in a sealed tube at 95° C. for 4 hours. The mixture was cooled to room temperature. The solid was collected by vacuum filtration, washed with cold ethanol and dried in a vacuum oven to give 4-methyl-3-(3-methyl-1H-indol-2-ylmethylene)-1,3-dihydro-indol-2-one.

reactant | 4-methyl-2-oxindole | 147 mg | CC1=C2CC(NC2=CC=C1)=O | C9H9NO
reactant | 3-methyl-indole-2-carbaldehyde | 190 mg | CC1=C(NC2=CC=CC=C12)C=O | C10H9NO
reactant | piperidine | 10 mg | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 4-methyl-3-(3-methyl-1H-indol-2-ylmethylene)-1,3-dihydro-indol-2-one | CC1=C2C(C(NC2=CC=C1)=O)=CC=1NC2=CC=CC=C2C1C | C19H16N2O
